US06992107B1
4-t-Butylbenzyl 5-amino-4-oxopentanoate hydrochloride [compound 10]
From 4-t-butylbenzyl alcohol (5.0 g; 30 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 2 days. The yield was 0.84 9 (52%).

reactant | 4-t-butylbenzyl alcohol | 30 mmol, 5.0 g | C(C)(C)(C)C1=CC=C(CO)C=C1 | C11H16O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 4-t-Butylbenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=CC=C(C=C1)C(C)(C)C)=O | InChI=1S/C16H23NO3.ClH/c1-16(2,3)13-6-4-12(5-7-13)11-20-15(19)9-8-14(18)10-17;/h4-7H,8-11,17H2,1-3H3;1H
